US04190671
25 g. Methyl 4-hydroxybutanoate were mixed with 47.5 g. toluene-sulphonyl chloride and 250 ml. dry pyridine at 5° C. and kept at this temperature for 17 hours, whereafter the reaction mixture was poured into 2 liters ice water. The oil thus formed was extracted with diethyl ether and the ethereal extract was washed with 500 ml. 6 N hydrochloric acid to remove excess pyridine, followed by washing with a saturated aqueous solution of sodium bicarbonate until neutral. Concentration of the organic layer gave 32.5 g. of a yellow oil which was dissolved in diethyl ether, treated with decolorising charcoal, filtered and the filtrate concentrated to give 30.5 g. of a pale yellow oil which slowly crystallised at 5° C. Thin layer chromatography (petroleum ether/dichloromethane/acetone 6:3:1 v/v/v) showed the product to be pure. The methyl 4-(p-toluene-sulphonyl)-butanoate thus obtained had a melting point of 23° C.

reactant | Methyl 4-hydroxybutanoate | OCCCC(=O)OC | C5H10O3
reactant | toluene-sulphonyl chloride | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | charcoal | C | CH4
solvent | diethyl ether | C(C)OCC | C4H10O
product | methyl 4-(p-toluene-sulphonyl)-butanoate | C1(=CC=C(C=C1)S(=O)(=O)CCCC(=O)OC)C | C12H16O4S
